US04879388
1-[bis(isodecyloxycarbonyl)methyl]-1,2,4-triazole, which is the product of Example 12 (15.6g), was dissolved in carbon tetrachloride (20 ml). Phosphorus trichloride (3 drops) was added and the solution was stirred and heated at 60° whilst a slow stream of chlorine was bubbled through it for 1 hour. The solution was then cooled, washed with aqueous sodium sulphite solution and with water, and the solvent was distilled under reduced pressure yielding 1-[bis(isodecyloxycarbonyl)chloromethyl]-1,2,4-triazole (12.9 g), which had a purity of 82.4% as measured by non-aqueous titration with perchloric acid. This compound was evaluated as an extractant for copper by the procedure of Example 1 and the results are presented in Table 1.

reactant | 1-[bis(isodecyloxycarbonyl)methyl]-1,2,4-triazole | C(CCCCCCC(C)C)OC(=O)C(N1N=CN=C1)C(=O)OCCCCCCCC(C)C | C25H45N3O4
reactant | chlorine | ClCl | Cl2
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | Phosphorus trichloride | 3 drops | P(Cl)(Cl)Cl | Cl3P
product | 1-[bis(isodecyloxycarbonyl)chloromethyl]-1,2,4-triazole | 12.9 g | C(CCCCCCC(C)C)OC(=O)C(N1N=CN=C1)(Cl)C(=O)OCCCCCCCC(C)C | C25H44ClN3O4
